US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline (800 mg) in dichloromethane (10 ml) were dropwise added pyridine (230 mg) and phenyl chloroformate (333 mg) at ambient temperature, and the mixture was stirred for 1 hour at ambient temperature. The mixture was washed with saturated ammonium chloride solution, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(phenoxycarbonyloxymethyl)quinoline (100 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline | 800 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CO)N2C=NC=C2)C(=CC=C1)Cl | C20H14Cl2N4O2
reactant | pyridine | 230 mg | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 333 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(phenoxycarbonyloxymethyl)quinoline | 100 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC(=O)OC2=CC=CC=C2)N2C=NC=C2)C(=CC=C1)Cl | C27H18Cl2N4O4
